US06022906
1-[4-(3-Mercapto-2-mercaptomethyl-2-methyl-propylthio)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one
3.6 g (14.3 mmol) of 1-(4-fluorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one and 12 g (71.3 mmol) of 1,1,1-trismercaptomethylethane are dissolved in 70 ml of dry dimethylformamide, and 28.6 mmol of sodium hydride are added. The solution is stirred at room temperature for 2 h. Then the solution is poured into water. The crude product is extracted with methylene chloride, washed with water, dried over MgSO4, and concentrated. The residue is purified by column chromatography on silica gel with methylene chloride as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.12 (s, 3H), 1.30 (t, 2H), 1.31 (s, 6H), 2.57 (t, 4H), 2.62-2.72 (m, 4H), 3.14 (s, 2H), 3.69 (t, 4H), 7.33 (d, 2H), 8.49 (d, 2H).

reactant | 1-(4-fluorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one | 14.3 mmol, 3.6 g | FC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18FNO2
reactant | 1,1,1-trismercaptomethylethane | 71.3 mmol, 12 g | SCC(C)(CS)CS | C5H12S3
reactant | sodium hydride | 28.6 mmol | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-[4-(3-Mercapto-2-mercaptomethyl-2-methyl-propylthio)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one | SCC(CSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O)(C)CS | C19H29NO2S3
